datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)[C@@]12C[NH:10][C@@H](C(=O)[O-])[C@@H]1CC(=O)O2.COc1cccc(C)c1C(=O)[O:21][H:20]>>CC(C)[C@@]12C[NH+:10]([H:20])[C@@H](C(=O)[O-])[C@@H]1CC(=O)O2.COc1cccc(C)c1C(=O)[O-:21] 10=20;20,21=21",
"CC1C[N+:21]([H:20])=C(C(C)(C)C)S1.[S-]c1ccnc[n:10]1>>CC1C[N:21]=C(C(C)(C)C)S1.[S-]c1ccnc[n+:10]1[H:20] 10=20;20,21=21",
"Cc1cc(C(C)C)ccc1[O-:10].Nc1c[n+:21]([H:20])cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O>>Cc1cc(C(C)C)ccc1[O:10][H:20].Nc1c[n:21]cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O 10=20;20,21=21",
"C(=N/[NH2+:21][H:20])\c1ncnc2nc[nH]c12.O=C([O-])[C@]12C[NH:10]CC[C@H]1O2>>C(=N/[NH2:21])\c1ncnc2nc[nH]c12.O=C([O-])[C@]12C[NH+:10]([H:20])CC[C@H]1O2 10=20;20,21=21",
"CC[NH+](CC)CCCC(C)Nc1cc[n+:21]([H:20])c2ccc(OC)cc12.Cc1ccc2ccc([O-:10])cc2c1>>CC[NH+](CC)CCCC(C)Nc1cc[n:21]c2ccc(OC)cc12.Cc1ccc2ccc([O:10][H:20])cc2c1 10=20;20,21=21",
"CC(=O)Sc1ccc([O:21][H:20])cc1.O=C(C(O)c1ccccc1[N+](=O)[O-])[O-:10]>>CC(=O)Sc1ccc([O-:21])cc1.O=C(C(O)c1ccccc1[N+](=O)[O-])[O:10][H:20] 10=20;20,21=21",
"C1CN(CC[N+:21]2([H:20])CCOCC2)CCO1.COc1ccc(F)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:10]2Cc1ccccc1>>C1CN(CC[N:21]2CCOCC2)CCO1.COc1ccc(F)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:10]2(Cc1ccccc1)[H:20] 10=20;20,21=21",
"Cc1cccc(C)c1C(c1ccccc1)=[N+:21](CCC[NH+](C)C)[H:20].O=[Se](c1ccc2ccccc2c1)[O-:10]>>Cc1cccc(C)c1C(c1ccccc1)=[N:21]CCC[NH+](C)C.O=[Se](c1ccc2ccccc2c1)[O:10][H:20] 10=20;20,21=21",
"COc1c2ccccc2c2ccccc2[n:10]1.O=C(C1=CC=C[Se]1)[O:21][H:20]>>COc1c2ccccc2c2ccccc2[n+:10]1[H:20].O=C(C1=CC=C[Se]1)[O-:21] 10=20;20,21=21",
"CC/C=C/CC1=[NH+]C(C(=O)[O:21][H:20])C2SC(C)(C)C(C(=O)O)N12.N/C(C([NH3+])c1ccccc1)=[N:10]/O>>CC/C=C/CC1=[NH+]C(C(=O)[O-:21])C2SC(C)(C)C(C(=O)O)N12.N/C(C([NH3+])c1ccccc1)=[N+:10](/O)[H:20] 10=20;20,21=21",
"COc1cc(OC)nc([N-]S(=O)(=O)c2ccc([O-:10])cc2)n1.COc1cc([N+](=O)[O-])ccc1[O:21][H:20]>>COc1cc(OC)nc([N-]S(=O)(=O)c2ccc([O:10][H:20])cc2)n1.COc1cc([N+](=O)[O-])ccc1[O-:21] 10=20;20,21=21",
"C/C(O)=C/C(=O)[O:21][H:20].Cn1cnc2c1C(=O)NC(=O)[N-:10]2>>C/C(O)=C/C(=O)[O-:21].Cn1cnc2c1C(=O)NC(=O)[N:10]2[H:20] 10=20;20,21=21",
"CC1=NS(=O)(=O)c2ncccc2[N:21]1[H:20].O=S(=O)([O-])c1cc([O-:10])c2cn[nH]c2c1>>CC1=NS(=O)(=O)c2ncccc2[N-:21]1.O=S(=O)([O-])c1cc([O:10][H:20])c2cn[nH]c2c1 10=20;20,21=21",
"COCc1cccc(COC)[n:10]1.O=C(/C=C/c1ccco1)[O:21][H:20]>>COCc1cccc(COC)[n+:10]1[H:20].O=C(/C=C/c1ccco1)[O-:21] 10=20;20,21=21",
"CC1(C)CCCC(C)(C)[NH:10]1.Cc1ccccc1C(O)C(C(=O)[O:21][H:20])c1ccc(-c2ccccc2)cc1>>CC1(C)CCCC(C)(C)[NH+:10]1[H:20].Cc1ccccc1C(O)C(C(=O)[O-:21])c1ccc(-c2ccccc2)cc1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1cc2c(c([O-:10])c1)CCC2>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1cc2c(c([O:10][H:20])c1)CCC2 10=20;20,21=21",
"Cc1nnn[n-:10]1.[NH3+][C@H]1C[C@H]2CCCC[C@@H]2C[C@H]1[NH2+:21][H:20]>>Cc1nnn[n:10]1[H:20].[NH3+][C@H]1C[C@H]2CCCC[C@@H]2C[C@H]1[NH2:21] 10=20;20,21=21",
"CC(=O)/C(Cl)=N/[O-:10].O=C(C#CSc1ccccc1)[O:21][H:20]>>CC(=O)/C(Cl)=N/[O:10][H:20].O=C(C#CSc1ccccc1)[O-:21] 10=20;20,21=21",
"CN(C)c1cc[n+]([O-:10])cc1.C[C@H]([NH3+])[C@@H](C)[NH2+:21][H:20]>>CN(C)c1cc[n+]([O:10][H:20])cc1.C[C@H]([NH3+])[C@@H](C)[NH2:21] 10=20;20,21=21",
"C[NH+:21](CCO)[H:20].[NH3+]CCC[Se-:10]>>C[NH:21]CCO.[NH3+]CCC[Se:10][H:20] 10=20;20,21=21",
"CCC[NH:10]CC(=O)O.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCC[NH+:10](CC(=O)O)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC[NH:10]C(C)C(=O)[O-].C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC[NH+:10](C(C)C(=O)[O-])[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=C([O-])C(CO)[NH2+]Cc1cc(Cl)ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])C(CO)[NH2+]Cc1cc(Cl)ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1cccc([NH3+])c1C(=O)[O:21][H:20].Nc1c[n:10]cnc1N>>Cc1cccc([NH3+])c1C(=O)[O-:21].Nc1c[n+:10]([H:20])cnc1N 10=20;20,21=21",
"CC(=O)Nc1ccc(S(=O)(=O)[NH-:10])cc1.O=C(CC1CCCCC1)[O:21][H:20]>>CC(=O)Nc1ccc(S(=O)(=O)[NH:10][H:20])cc1.O=C(CC1CCCCC1)[O-:21] 10=20;20,21=21",
"C[NH2+]CCNCC[NH2:10].O=C([O-])CCc1nc2ccccc2[n:21]1[H:20]>>C[NH2+]CCNCC[NH2+:10][H:20].O=C([O-])CCc1nc2ccccc2[n-:21]1 10=20;20,21=21",
"CC(C)NCCCCCC[NH:10]C(C)C.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC(C)NCCCCCC[NH+:10](C(C)C)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CN(C)c1cccc[n+]1[O:21][H:20].O=C(c1ccc(Br)c([N+](=O)[O-])c1)[O-:10]>>CN(C)c1cccc[n+]1[O-:21].O=C(c1ccc(Br)c([N+](=O)[O-])c1)[O:10][H:20] 10=20;20,21=21",
"C[n+]1ccc(/C=N/[O:21][H:20])cc1.c1ccc(C(c2ccncc2)(c2ccncc2)[O-:10])nc1>>C[n+]1ccc(/C=N/[O-:21])cc1.c1ccc(C(c2ccncc2)(c2ccncc2)[O:10][H:20])nc1 10=20;20,21=21",
"CCOc1cccc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:10]3Cc2ccccc2)c1OC.CC[N+:21](CC)(CCN)[H:20]>>CCOc1cccc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:10]3(Cc2ccccc2)[H:20])c1OC.CC[N:21](CC)CCN 10=20;20,21=21",
"C[As](C)(C)=[O:10].O=C(CP)[O:21][H:20]>>C[As](C)(C)=[O+:10][H:20].O=C(CP)[O-:21] 10=20;20,21=21",
